US09227986B2
To a solution of p-toluenesulfonyl chloride (3.17 g, 19.3 mmol) in 20 mL of pyridine was added 2-(2-(2-methoxyethoxy)ethoxy)ethanol (4 g, 21 mmol), which was then stirred at 0° C. for 12 h and at RT for 2 h. To this suspension, water, hexanes, and ethyl acetate were added and separated. The organic layer was neutralized with dilute hydrochloric acid and separated again. The organic layer was dried over with magnesium sulfate and sodium bicarbonate, filtered, and concentrated under reduced pressure to give 4.87 g, 15.3 mmol (79%) of 2-(2-(2-methoxyethoxy)ethoxy)-ethyl 4-methylbenzene sulfonate as a colorless oil.

reactant | p-toluenesulfonyl chloride | 19.3 mmol, 3.17 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-(2-(2-methoxyethoxy)ethoxy)ethanol | 21 mmol, 4 g | COCCOCCOCCO | C7H16O4
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-(2-methoxyethoxy)ethoxy)-ethyl 4-methylbenzene sulfonate | 15.3 mmol, 4.87 g, 79% | CC1=CC=C(C=C1)S(=O)(=O)OCCOCCOCCOC | C14H22O6S
